### PR TITLE
feat(ModelTheory): preparatory work for the existence of Fraïsse limits

### PR DESCRIPTION
**Pull request by GabinKolly**
Define the map of a PartialEquiv through an embedding, and related properties.
Define embeddings and equivalences between equal structures or equal substructures, and related properties.
Add miscellaneous lemmas which will be used to prove the existence of fraisse limits.

---

This is preparation for #18876

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: .vscode/settings.json [hunk 1]
```diff
@@ -1,24 +1,24 @@
...
-    "master",
-    "stable",
-    "staging"
-  ],
-  "files.readonlyInclude": {
-    "**/.elan/**": true,
-    "**/.lake/**": true
-  }
-}
+    "editor.insertSpaces": true,
```
Comment (vihdzp) [inline .vscode/settings.json:2]: This seems like a mistake.

Comment (Vegan-Parabola) [reply .vscode/settings.json]: Yes, that was a mistake, it has been corrected.

File: Mathlib/ModelTheory/Bundled.lean [hunk 2]
```diff
@@ -197,6 +197,66 @@ instance ElementarySubstructure.toModel.instSmall {M : T.ModelType}
     (S : L.ElementarySubstructure M) [h : Small.{w, x} S] : Small.{w, x} (S.toModel T) :=
   h
 
+variable {M N P : CategoryTheory.Bundled.{w} L.Structure}
+
+namespace Embedding
+
+/-- Embedding between equal structures.-/
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Bundled.lean:204]:
```suggestion
/-- Embedding between equal structures. -/
```
and everywhere else

File: Mathlib/ModelTheory/Bundled.lean [hunk 3]
```diff
@@ -197,6 +197,66 @@ instance ElementarySubstructure.toModel.instSmall {M : T.ModelType}
...
+
+@[simp]
+theorem ofEq_refl : ofEq (Eq.refl M) = refl L M := rfl
+
+@[simp]
+theorem ofEq_comp (h : M = N) (h' : N = P) :
+    (ofEq h').comp (ofEq h) = ofEq (h.trans h') := by
+  cases h
+  cases h'
+  rfl
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Bundled.lean:243]:
```suggestion
  simp [h, h']
```
Same below

File: Mathlib/ModelTheory/Bundled.lean [hunk 4]
```diff
@@ -197,6 +197,66 @@ instance ElementarySubstructure.toModel.instSmall {M : T.ModelType}
...
+@[simp]
+theorem ofEq_comp_apply (h : M = N) (h' : N = P) (m : M) :
+    (ofEq h') (ofEq h m) = ofEq (h.trans h') m := by
+  cases h
+  cases h'
+  rfl
+
+@[simp]
+theorem ofEq_toEmbed (h : M = N) :
+    (ofEq h).toEmbedding = Embedding.ofEq h := by
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Bundled.lean:254]:
```suggestion
theorem ofEq_toEmbeding (h : M = N) :
    (ofEq h).toEmbedding = Embedding.ofEq h := by
```

File: Mathlib/ModelTheory/Bundled.lean [hunk 5]
```diff
@@ -197,6 +197,66 @@ instance ElementarySubstructure.toModel.instSmall {M : T.ModelType}
...
+  cases h
+  rfl
```
Comment (YaelDillies) [inline Mathlib/ModelTheory/Bundled.lean:256]:
```suggestion
    (ofEq h).toEmbedding = .ofEq h := rfl
```
no?

**Review by YaelDillies — COMMENTED** [review]
Opening a PR for all the preliminary stuff that your end theorem needs is an easy trap to fall into. It results in big PRs doing many too things at once that wait forever in review.

I would finger-guess that reviewing time is roughly quadratic in the size of the diff, so if you split your 330 lines PR into 4-5 PRs (one per modified file, maybe) of 60-150 lines, you might gain a 20x speedup on review 😉

**Comment by YaelDillies** [comment]
Here is a way to figure out for yourself whether your PR is too big: https://github.com/leanprover-community/mathlib4/pull/16177#issuecomment-2585960356

**Comment by Vegan-Parabola** [comment]
@YaelDillies you're right, sorry about this monstrous pull request, I divided everything in 4 different pull requests:
#21270 #21272 #21276 #21277

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
